US08383638B2
To a solution of tert-butyl piperazine-1-carboxylate (0.300 g, 1.61 mmol) in 10 mL of toluene under an atmosphere of nitrogen was added 3-iodothiophene (0.390 g, 1.86 mmol), sodium tert-butoxide (0.310 g, 3.22 mmol), tris (dibenzylidenacetone)palladium (0) (0.295 g, 0.322 mmol), and 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (X-Phos, 0.307 g, 0.644 mmol). The mixture was heated to 100° C. for 18 h, cooled to rt, and treated with water. The solution was extracted 3× with ethyl acetate, and the combined organic solution was washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The resultant residue was purified via silica gel chromatography, eluting with 0-70% ethyl acetate, to provide text-butyl 4-(3-thienyl)piperazine-1-carboxylate that gave a proton NMR spectra consistent with theory.

reactant | tert-butyl piperazine-1-carboxylate | 1.61 mmol, 0.300 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 3-iodothiophene | 1.86 mmol, 0.390 g | IC1=CSC=C1 | C4H3IS
reactant | sodium tert-butoxide | 3.22 mmol, 0.310 g | CC(C)([O-])C.[Na+]
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.644 mmol, 0.307 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | butyl 4-(3-thienyl)piperazine-1-carboxylate | S1C=C(C=C1)N1CCN(CC1)C(=O)OCCCC | C13H20N2O2S
